US08003654B2
13) Synthesis of ethyl-isothiazol-5-ylmethyl-amine
prepared by reaction of 5-chloromethyl-isothiazole with 2M ethylamine in THF.

reactant | 5-chloromethyl-isothiazole | ClCC1=CC=NS1 | C4H4ClNS
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-isothiazol-5-ylmethyl-amine | C(C)NCC1=CC=NS1 | C6H10N2S
